US04110533
0.87 ml of anisole is added to a solution of 2.0 g (3.78 mmols) of 7β-phenoxyacetamido-3-methoxy-ceph-3-em-4-carboxylic acid diphenylmethyl ester in 5 ml of methylene chloride and the mixture is cooled to 0° C and, after adding 1.2 ml of trifluoracetic acid, left to stand for 1 hour. The reaction mixture is concentrated in vacuo and the residue is crystallised from acetone/ether. 7β-Phenoxyacetamido-3-methoxy-ceph-3-em-4-carboxylic acid of melting point 170° C (decomposition) is obtained.

reactant | anisole | 0.87 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | 7β-phenoxyacetamido-3-methoxy-ceph-3-em-4-carboxylic acid diphenylmethyl ester | 3.78 mmols, 2.0 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)OC | C29H26N2O6S
reactant | trifluoracetic acid | 1.2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 7β-Phenoxyacetamido-3-methoxy-ceph-3-em-4-carboxylic acid | O(C1=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O | C16H16N2O6S
